US05162319
To a stirred solution of 2,6-dichloro-1,3,5-triazine (0.3 g, 2 mmol; made according to R L N Harris, Synthesis, 1981, 907) and potassium carbonate (0.28 g, 2 mmol) in dry acetonitrile (25 ml) at 0° C. under an atmosphere of nitrogen was added dropwise a solution of (E)-methyl 2-(2-hydroxyphenyl)-3-methoxypropenoate (0.42 g, 2 mmol) in dry acetonitrile (7 ml). Anhydrous caesium fluoride (0.30 g, 2 mmol) and a catalytic amount of 18-crown-6 were added with stirring and the temperature was allowed to rise to room temperature. After stirring overnight, the reaction mixture was filtered and evaporated to leave a yellow/orange paste. Chromatography (eluent diethyl ether) afforded (E)-methyl 2-[2-(4-chloro-1,3,5-triazin-2-yloxy)phenyl]-3-methoxypropenoate (0.42 g) as a white solid, m.p. 137°-140° C.; Infrared max. 1704, 1631 cm-1 ; 1H NMR (CDCl3) δ 3.63(3 H,s); 3.75(3H,s); 7.19-7.29(1H,m); 7.31-7.45(3H,m); 7.47(1H,s); 8.74(1H,s) ppm.

reactant | 2,6-dichloro-1,3,5-triazine | 2 mmol, 0.3 g | ClC1=NC(=NC=N1)Cl | C3HCl2N3
reactant | potassium carbonate | 2 mmol, 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-methyl 2-(2-hydroxyphenyl)-3-methoxypropenoate | 2 mmol, 0.42 g | OC1=C(C=CC=C1)/C(/C(=O)OC)=C\OC | C11H12O4
reactant | caesium fluoride | 2 mmol, 0.30 g | [F-].[Cs+]
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
product | (E)-methyl 2-[2-(4-chloro-1,3,5-triazin-2-yloxy)phenyl]-3-methoxypropenoate | 0.42 g | ClC1=NC(=NC=N1)OC1=C(C=CC=C1)/C(/C(=O)OC)=C\OC | C14H12ClN3O4
